US07005436B2
Di-tert-butyl dicarbonate (12.66 g, 58.0 mmol) was added to a solution of piperidine-4-carboxylic acid (5.00 g, 38.7 mmol) in dioxane (100 mL) and saturated aqueous sodium bicarbonate (100 mL) and stirred at room temperature for 48 h. The reaction mixture was concentrated to 100 mL under reduced pressure and ethyl acetate (200 mL) was added. The solution was made acidic with 6M hydrochloric acid (pH=3), the organic layer collected and concentrated under reduced pressure to give 7.22 g of piperidine-1,4-dicarboxylic acid mono-tert-butyl ester. LRMS m/z 228.1 (M−H)−.

reactant | Di-tert-butyl dicarbonate | 58.0 mmol, 12.66 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | piperidine-4-carboxylic acid | 38.7 mmol, 5.00 g | N1CCC(CC1)C(=O)O | C6H11NO2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
product | piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 7.22 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
